US05204326
Preparation of Boc-Asn-Leu-OEt
5.00 Grams of H-Leu-OEt.HCl, 5.95 g of Boc-Asn-OH and 4.11 g of HOBT.H2O were suspended in 100 ml of THF. To this suspension was added 4.70 ml of WSC with ice-cooling. The mixture was stirred for 7 hours at room temperature. To the reaction mixture were added 100 ml of ethyl acetate and 200 ml of water to effect extraction. The ethyl acetate layer was washed with 50 ml of a saturated aqueous sodium bicarbonate solution three times, 50 ml of a saturated aqueous sodium chloride solution once, 50 ml of 1N hydrochloric acid three times and 50 ml of a saturated aqueous sodium chloride solution once in this order, dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was solidified with isopropyl ether to obtain 7.00 g (yield: 72.9%) of the above objective compound. Melting point: 155°-157° C.

reactant | H-Leu-OEt.HCl | N[C@@H](CC(C)C)C(=O)OCC.Cl
reactant | Boc-Asn-OH | 5.95 g | N([C@@H](CC(N)=O)C(=O)O)C(=O)OC(C)(C)C | C9H16N2O5
reactant | HOBT | 4.11 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 4.70 ml | CCN=C=NCCCN(C)C | C8H17N3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Boc-Asn-Leu-OEt | 7.00 g, yield: 72.9% | N([C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OCC)C(=O)OC(C)(C)C | C17H31N3O6
